US08859108B2
(iii) Synthesis of 4-(benzoxazol-2-yl)phenylboronic acid
In a 300 mL three-neck flask, 5.5 g (20 mmol) of 2-(4-bromophenyl)benzoxazole was placed, and the air in the flask was replaced with nitrogen. Then, 120 mL of THF was added in the flask, and the mixture was cooled to −78° C. under nitrogen stream. After cooling, 13 mL (22 mmol) of 1.6 M n-butyllithium was dripped into the solution, and the mixture was stirred at the same temperature for 2 hours. After a certain period, 4.4 mL (40 mmol) of trimethyl borate was added to the solution, and the temperature was raised to room temperature, and then, the solution was stirred for 16 hours. After a certain period, 100 mL of 1 M hydrochloric acid was added to the solution, and stirred for 1 hour. An aqueous layer of the obtained mixture was extracted with ethyl acetate. The resulting extracted solution and the organic layer were combined and washed with saturated saline, and then dried with magnesium sulfate. The mixture was gravity filtered, and the obtained filtrate was condensed to give a solid. The solid was recrystallized with ethyl acetate/hexane, so that 3.3 g of target white powder was obtained in a yield of 69%.

reactant | 2-(4-bromophenyl)benzoxazole | 20 mmol, 5.5 g | BrC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H8BrNO
reactant | n-butyllithium | 22 mmol, 1.6 M, 13 mL | C(CCC)[Li]
reactant | trimethyl borate | 40 mmol, 4.4 mL | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1 M, 100 mL | Cl | ClH
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 4-(benzoxazol-2-yl)phenylboronic acid | O1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)B(O)O | C13H10BNO3
